US04559354
Analogously to the procedure described in Example 12, by reacting 2.3 g of 5-[4-(2,3-epoxypropoxy)-phenyl]-2-methyl-2H-tetrazole with 1.5 g of 5-(2-aminoethoxy)-salicylamide there is obtained 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(2-methyl-2H-tetrazol-5-yl)-phenoxy]-2-propanol having a melting point of 174°-175° (from dioxan).

reactant | 5-[4-(2,3-epoxypropoxy)-phenyl]-2-methyl-2H-tetrazole | 2.3 g | O1C(COC2=CC=C(C=C2)C=2N=NN(N2)C)C1 | C11H12N4O2
reactant | 5-(2-aminoethoxy)-salicylamide | 1.5 g | NCCOC1=CC=C(C(C(=O)N)=C1)O | C9H12N2O3
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(2-methyl-2H-tetrazol-5-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C=2N=NN(N2)C)O)C=CC1O | C20H24N6O5
